US04960902
Step (5) Preparation of 1-Ethyl-1,3,4,9-tetrahydro-6-(trifluoromethoxy)pyrano[3,4-b]indole-1-acetic Acid
A mixture of 1-ethyl-1,3,4,9-tetrahydro-6-(trifluoromethoxy)pyrano[3,4-b]indole-1-acetic acid methyl ester (6.2 g, 17.4 mmol) in ethanol (80 mL) and 2.5N NaOH (24 mL) was stirred at ambient temperature under nitrogen for 3 hours. The ethanol was removed in vacuo and the residue was diluted with H2O (70 mL) and washed with ether. The aqueous phase was acidified (to pH3) with 2N-HCl and extracted with Et2O. The extract was washed with brine and dried (Na2SO4). Removal of the solvent afforded the crude product (5.2 g, amber oil). Crystallization from Et2O-hexane gave 3.43 g of the pure title compound (mp 148° C., white solid). A second crop was obtained from the mother liquor (0.54 g, mp 148° C., light brown solid). The combined yield was 67%.

reactant | 1-ethyl-1,3,4,9-tetrahydro-6-(trifluoromethoxy)pyrano[3,4-b]indole-1-acetic acid methyl ester | 17.4 mmol, 6.2 g | COC(CC1(OCCC2=C1NC1=CC=C(C=C21)OC(F)(F)F)CC)=O | C17H18F3NO4
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | NaOH | 2.5N, 24 mL | [OH-].[Na+]
product | 1-Ethyl-1,3,4,9-tetrahydro-6-(trifluoromethoxy)pyrano[3,4-b]indole-1-acetic Acid | 3.43 g, yield was 67% | C(C)C1(OCCC2=C1NC1=CC=C(C=C21)OC(F)(F)F)CC(=O)O | C16H16F3NO4
